US04469693
2-[4-(Phenylmethyl)-1-piperazinyl]-2,4,6-cycloheptatrien-1-one (I: Alk=CH2, R1 =H and R2 =phenyl)
A mixture of 1-(phenylmethyl)-piperazine (3.2 g) and 2-methoxy-2,4,6-cycloheptatrien-1-one (1.6 g) in methanol (6 ml) was refluxed for 10 hr and evaporated. The residue was dissolved in a mixture of chloroform and water. The organic phase was separated, dried and evaporated. The residue was chromatographed on silica gel (200 g) using methanol-chloroform (5:95). The eluates were evaporated to give the title compound (2.7 g): mp 78°-80° C.; ir(CHCl3) 2400, 1705, 1620, 1350 and 1570 cm-1 ; uv max(MeOH) 343 (ε=9440) and 250 nm (ε=14975); nmr(CDCl3) δ2.9 (s, 3H), 3.5 (m, 8H), 6.27 (s, 2H), 7.0 (m, 5H) and 14.5 (broad, 2H); and Anal. Calcd for C18H20N2O2 : C, 77.11% H, 7.19% N, 9.99% and Found: C, 77.08% H, 7.17% N, 9.74%.

reactant | 1-(phenylmethyl)-piperazine | 3.2 g | C1(=CC=CC=C1)CN1CCNCC1 | C11H16N2
reactant | 2-methoxy-2,4,6-cycloheptatrien-1-one | 1.6 g | COC=1C(C=CC=CC1)=O | C8H8O2
solvent | methanol | 6 ml | CO | CH4O
product | 2-[4-(Phenylmethyl)-1-piperazinyl]-2,4,6-cycloheptatrien-1-one | 2.7 g | C1(=CC=CC=C1)CN1CCN(CC1)C=1C(C=CC=CC1)=O | C18H20N2O
